US05547972
A mixture of 3-chloro-N-[1-(4-chlorophenyl)ethyl]-2,2-dimethylpropionamide (5.0 g) and imidazole (6.2 g) was heated at 125° C. with stirring for 6 hours. Excess imidazole was removed by azeotropic distillation with toluene under reduced pressure. The residue was dissolved in 5M hydrochloric acid and washed with dichloromethane. The acid layer was basified with 5M sodium hydroxide solution and extracted with dichloromethane. The combined extracts were washed with water, dried and evaporated to give N-[1-(4-chlorophenyl)ethyl]-3-(imidazol-1-yl)-2,2-dimethylpropionamide which was used directly in (c) below.

reactant | 3-chloro-N-[1-(4-chlorophenyl)ethyl]-2,2-dimethylpropionamide | 5.0 g | ClCC(C(=O)NC(C)C1=CC=C(C=C1)Cl)(C)C | C13H17Cl2NO
reactant | imidazole | 6.2 g | N1C=NC=C1 | C3H4N2
product | N-[1-(4-chlorophenyl)ethyl]-3-(imidazol-1-yl)-2,2-dimethylpropionamide | ClC1=CC=C(C=C1)C(C)NC(C(CN1C=NC=C1)(C)C)=O | C16H20ClN3O
